US05981533
Analogously to Example 21, 1.00 mmol of 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine in 26 ml of methanol, 13 ml of DMEU and 3.0 mmol of acetic acid are first reacted with 4-hydroxy-3,5-dimethoxy-benzaldehyde and then reduced with 7.00 mmol of NaCNBH3 (5-7 days). 4-(3-Chloro-phenylamino)-3-(4-hydroxy-3,5-dimethoxy-benzylamino)-1H-pyrazolo[3,4-d]pyrimidine is obtained; HPLC: TRet (Grad5-40)=17.0.

reactant | 3-amino-4-(3-chloro-phenylamino)-1H-pyrazolo[3,4-d]pyrimidine | 1.00 mmol | NC1=NNC2=NC=NC(=C21)NC2=CC(=CC=C2)Cl | C11H9ClN6
reactant | acetic acid | 3.0 mmol | C(C)(=O)O | C2H4O2
reactant | 4-hydroxy-3,5-dimethoxy-benzaldehyde | OC1=C(C=C(C=O)C=C1OC)OC | C9H10O4
reactant | NaCNBH3 | 7.00 mmol | [BH3-]C#N.[Na+]
solvent | methanol | 26 ml | CO | CH4O
solvent | DMEU | 13 ml | CN1CCN(C1=O)C | C5H10N2O
product | 4-(3-Chloro-phenylamino)-3-(4-hydroxy-3,5-dimethoxy-benzylamino)-1H-pyrazolo[3,4-d]pyrimidine | ClC=1C=C(C=CC1)NC1=C2C(=NC=N1)NN=C2NCC2=CC(=C(C(=C2)OC)O)OC | C20H19ClN6O3
